US08912210B2
Step A: Methyl 2-[(tert-butoxycarbonyl)amino]-4-(3-chlorophenyl)-5-oxohexanoate
A mixture of cesium carbonate (9.80 g, 30.1 mmol) and methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate (9.90 g, 30.1 mmol) in DMF (75 mL) was stirred at 23° C. for 45 min before 1-(3-chlorophenyl)propan-2-one (6.09 g, 36.1 mmol) and additional cesium carbonate (9.80 g, 30.1 mmol) were added. The resulting mixture was stirred for 2.5 h. The majority of the DMF was then removed under reduced pressure at a bath temperature of <40° C. The concentrated mixture was partitioned between water (500 mL) and ethyl acetate (2×200 mL). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated to give the title compound as a 1:1 racemic mixture of diastereomers, which was used without further purification. MS: m/z=314.1 (M−t-Bu+1).

reactant | cesium carbonate | 30.1 mmol, 9.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate | 30.1 mmol, 9.90 g | C(C)(C)(C)OC(=O)N[C@H](CI)C(=O)OC | C9H16INO4
reactant | 1-(3-chlorophenyl)propan-2-one | 36.1 mmol, 6.09 g | ClC=1C=C(C=CC1)CC(C)=O | C9H9ClO
reactant | cesium carbonate | 30.1 mmol, 9.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | Methyl 2-[(tert-butoxycarbonyl)amino]-4-(3-chlorophenyl)-5-oxohexanoate | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C(C)=O)C1=CC(=CC=C1)Cl | C18H24ClNO5
